US04344948
1-(3-Chlorobenzoylmethyl)-4-[3,4-dihydro-2(1H)-quinazolinon-3-yl]-piperidin
In this example, 2.67 g of 4-[3,4-dihydro-2(1H)-quinazolinon-3-yl]-piperidine mono-hydrochloride, 2.33 g of α-bromo-m-chloroacetophenone, 2.8 ml of triethylamine and 30 ml of methanol are mixed and stirred at room temperature overnight. Then, the white crystals deposited are separated by filtration, successively washed with methanol and water and dried to obtain 2.89 g of a crude product. The crude product is recrystallized from a mixed solvent of chloroform and ethanol to obtain 1.93 g of the desired product.

reactant | 4-[3,4-dihydro-2(1H)-quinazolinon-3-yl]-piperidine mono-hydrochloride | 2.67 g | Cl.N1C(N(CC2=CC=CC=C12)C1CCNCC1)=O
reactant | α-bromo-m-chloroacetophenone | 2.33 g | BrCC(=O)C1=CC(=CC=C1)Cl | C8H6BrClO
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 30 ml | CO | CH4O
product | 1-(3-Chlorobenzoylmethyl)-4-[3,4-dihydro-2(1H)-quinazolinon-3-yl]-piperidin | 1.93 g | ClC=1C=C(C(=O)CN2CCC(CC2)N2C(NC3=CC=CC=C3C2)=O)C=CC1 | C21H22ClN3O2
